US04336268
10.0 g of lithium aluminum hydride are placed in 200 ml of absolute tetrahydrofuran under a nitrogen atmosphere in a 1.5 liter sulfonation flask provided with reflux condenser, thermometer, stirrer and dropping funnel, and there is added dropwise while stirring within about 1 hour a solution of 42 g of 1-(m-methoxyphenyl)-N,N-dimethyl-2-cyclohexene-1-acetamide in 450 ml of absolute tetrahydrofuran in such a manner that the temperature does not exceed 30° C. Subsequently, the mixture is stirred overnight at an oil-bath temperature of 90° C., cooled to room temperature and treated first dropwise with 50 ml of ethanol and then with tetrahydrofuran/water (1:1) until the further addition of this mixture no longer gives rise to an exothermic reaction. The mixture is then treated with 50 g of potassium carbonate, whereupon the separated precipitate is removed by filtration under suction and rinsed with methylene chloride. After distillation of the solvent, the brown oil obtained is treated with 200 ml of 1 N hydrochloric acid and extracted twice with 500 ml of ether each time. The ethereal solution is washed once with 100 ml of water. The aqueous phases are combined and made alkaline by the addition of concentrated ammonium hydroxide solution while cooling with ice. The separated base is taken up twice in 500 ml of ether each time. The organic phase is washed twice with 50 ml portions of sodium chloride solution and dried over magnesium sulfate. Thereafter, the solvent is removed by distillation. The oil obtained is chromatographed on 400 g of neutral aluminium oxide. Elution with 2500 ml of toluene gives rac. 1-(m-methoxyphenyl)-N,N-dimethyl-2-cyclohexene-1-ethylamine in the form of a colorless oil which is dissolved in 200 ml of ethanol and treated with an excess of ethanolic hydrochloric acid. After distillation of the solvent, the residue is treated twice with a mixture of 100 ml of ethanol and 100 ml of toluene. Then, the solvent is removed by distillation in a water-jet vacuum. The crystals obtained are dissolved in ethyl acetate/ethanol (20:1) at boiling temperature. After standing for 6 hours, the separated crystals are removed by filtration under suction, and there is obtained rac. 1-(m-methoxyphenyl)-N,N-dimethyl-2-cyclohexene-1-ethylamine hydrochloride in the form of colorless crystals having a melting point of 161°-162° C.

reactant | lithium aluminum hydride | 10.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | 1-(m-methoxyphenyl)-N,N-dimethyl-2-cyclohexene-1-acetamide | 42 g | COC=1C=C(C=CC1)C1(C=CCCC1)CC(=O)N(C)C | C17H23NO2
reactant | potassium carbonate | 50 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1 N, 200 ml | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 450 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran water | O1CCCC1.O
solvent | ethanol | 50 ml | C(C)O | C2H6O
product | rac. 1-(m-methoxyphenyl)-N,N-dimethyl-2-cyclohexene-1-ethylamine | COC=1C=C(C=CC1)C1(C=CCCC1)CCN(C)C | C17H25NO
